US04777172
Thionyl chloride (3.01 ml) was added dropwise to a stirred solution of 2-hydroxymethyl-4-piperidino-pyrimidine (2.66 g) in chloroform (20 ml) cooled in an ice/salt bath. The mixture was allowed to warm to room temperature and stirred for a further 2.5 hours. The solution was poured onto ice, the pH raised to ca. 8 (NaOH), and extracted with chloroform. The extracts were dried and stripped to give 2-chloromethyl-4-piperidino-pyrimidine (2.92 g) as an unstable oil which was used immediately.

reactant | Thionyl chloride | 3.01 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-hydroxymethyl-4-piperidino-pyrimidine | 2.66 g | OCC1=NC=CC(=N1)N1CCCCC1 | C10H15N3O
reactant | NaOH | [OH-].[Na+]
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-chloromethyl-4-piperidino-pyrimidine | 2.92 g | ClCC1=NC=CC(=N1)N1CCCCC1 | C10H14ClN3
